US08754100B2
Synthesis of benzyl N′-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridine-2-carbonyl]hydrazinecarboxylate
Benzyl carbazate (27.8 g), 1-hydroxybenztriazole (24.8 g) and 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride (35.4 g) were sequentially added to a solution of 6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridine-2-carboxylic acid obtained in Preparation Example 1-5 (51.9 g) and IPEA (44 mL) in N,N-dimethylformamide (184 mL), and the mixture was stirred at room temperature for six hours and 30 minutes. Ethyl acetate, ice water and a saturated sodium bicarbonate solution were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then filtered through an NH silica gel pad. The resulting filtrate was concentrated under reduced pressure. Ethyl acetate was added to the resulting residue, and the powder was collected by filtration. The resulting powder was air-dried to obtain 28.4 g of the title compound.

reactant | Benzyl carbazate | 27.8 g | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
reactant | 1-hydroxybenztriazole | 24.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride | 35.4 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridine-2-carboxylic acid | COC1=C(C=CC(=N1)C(=O)O)N1C=NC(=C1)C | C11H11N3O3
reactant | IPEA | 44 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 184 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl N′-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridine-2-carbonyl]hydrazinecarboxylate | 28.4 g | COC1=C(C=CC(=N1)C(=O)NNC(=O)OCC1=CC=CC=C1)N1C=NC(=C1)C | C19H19N5O4
